US07176318B2
Preparation of 4-(cyclopropylcarbonyl)-α,α-dimethylphenylacetonitrile
4-(Cyclopropylcarbonyl)phenylacetonitrile, 15.5 g [JOC, 1973,16, 487] and methyl iodide, 15.5 ml, are dissolved in 75 ml THF. The mixture is cooled to −10° C. and a solution of potassium butoxide (24.5 g) in THF (75 ml) is added so that the temperature of the reaction is kept below 5° C. After 0.5 h more, HPLC shows the reaction to be complete. 200 ml 2M HCI is added followed by 200 ml toluene. The organics are washed with 100 ml 10%. sodium sulphite solution then 100 ml satd sodium chloride solution. The THF is removed and the toluene treated with 5 g silica to remove colour. The toluene is removed and the product crystallises. Yield, 19 g.

reactant | 4-(Cyclopropylcarbonyl)phenylacetonitrile | C1(CC1)C(=O)C1=CC=C(C=C1)CC#N | C12H11NO
reactant | methyl iodide | CI | CH3I
reactant | potassium butoxide | 24.5 g | [O-]CCCC.[K+]
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | THF | 75 ml | C1CCOC1 | C4H8O
reactant | THF | 75 ml | C1CCOC1 | C4H8O
product | 4-(cyclopropylcarbonyl)-α,α-dimethylphenylacetonitrile | C1(CC1)C(=O)C1=CC=C(C=C1)C(C#N)(C)C | C14H15NO
